US06784304B2
Alternative Preparations (A) and (B) of (4S-trans)-3-Benzoyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylic acid, ethyl ester
[R-(R*,S*)]-β-(Benzoylamino)-α-hydroxybenzenepropanoic acid, ethyl ester (2.200 mg) was suspended in toluene (250 ml) and the flask equipped with a Dean-Stark trap. After heating to reflux, the compound dissolved. 40 ml of toluene were distilled off, PPTS (120 mg) and 2-methoxypropene (3.5 ml) were added, and distillation was continued. Further additions of 2-methoxypropene (2 ml, and then 1 ml) and toluene (50 ml, and then another 50 ml) were made, and the distillate periodically discarded. Purification on HPLC (hexane/ethyl acetate, 3:1) gave 2.3 g (93%) of the title product in a mixture with other reaction products. (Product characteristics consistent with structure of Example 1.)

reactant | β-(Benzoylamino)-α-hydroxybenzenepropanoic acid, ethyl ester | 2.200 mg | C(C1=CC=CC=C1)(=O)NC(C(C(=O)OCC)O)C1=CC=CC=C1 | C18H19NO4
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | (4S-trans)-3-Benzoyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylic acid, ethyl ester | 2.3 g, 93% | C(C1=CC=CC=C1)(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)OCC)(C)C | C21H23NO4
